US08242130B2
In 50 mL round-bottom flask fitted with magnetic stirrer were placed 1-(4-methoxyphenyl)-3-(3-methoxypyridin-2-yl) propane-1,3-dione (4.68 g, 16 mmol) and 45% aqueous solution of HBr (25 mL). The reaction mixture was refluxed for 3 h, then cooled down to rt. Solid NaHCO3 was used to adjust pH to 7, followed by EtOAc (30 mL). The organic layer was separated and aqueous layer was extracted with EtOAc (2×30 mL). The combined organic extracts were dried over Na2SO4, concentrated to give the crude product, which was purified by column chromatography using 30% MeOH in EtOAc to give 125 mg of 2-(4-hydroxy-phenyl)-pyrano[3,2-b]pyridin-4-one (3.2%). MS (ES) m/z: 240.09 (M+1), and 149.06.

reactant | 1-(4-methoxyphenyl)-3-(3-methoxypyridin-2-yl) propane-1,3-dione | 16 mmol, 4.68 g | COC1=CC=C(C=C1)C(CC(=O)C1=NC=CC=C1OC)=O | C16H15NO4
reactant | HBr | 25 mL | Br | BrH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-(4-hydroxy-phenyl)-pyrano[3,2-b]pyridin-4-one | 125 mg, 3.2% | OC1=CC=C(C=C1)C1=CC(C2=NC=CC=C2O1)=O | C14H9NO3
